### PR TITLE
A few lemmas

### PR DESCRIPTION
**Pull request by proux01**
This is the content of my analysis_complements.v file in a development I recently ported from Coquelicot to MathComp Analysis.
Not sure everything is of interest here.

### CODE REVIEW

File: theories/classical_sets.v [hunk 1]
```diff
@@ -288,6 +288,13 @@ Lemma eq_set T (P Q : T -> Prop) : (forall x : T, P x = Q x) ->
   [set x | P x] = [set x | Q x].
 Proof. by move=> /funext->. Qed.
 
+Lemma eq_set_inl T1 T2 (A : set T1) (f f' : T1 -> T2) :
+  (forall x, A x -> f x = f' x) -> [set f x | x in A] = [set f' x | x in A].
+Proof.
+move=> Hff'; rewrite predeqE => x.
```
Comment (affeldt-aist) [inline theories/classical_sets.v:294]: Maybe a one-liner: `by move=> h; rewrite predeqE=> y; split=> [][x ? <-]; exists x=> //; rewrite h.`?

File: theories/ereal.v [hunk 2]
```diff
@@ -918,6 +932,9 @@ Proof.
 by move=> x Sx; rewrite /ereal_inf lee_oppl; apply ereal_sup_ub; exists x.
 Qed.
 
+Lemma ereal_inf_pinfty S : ereal_inf S = +oo -> S `<=` [set +oo].
+Proof. by move=> infS [r /ereal_inf_lb |//| /ereal_inf_lb]; rewrite infS. Qed.
```
Comment (affeldt-aist) [inline theories/ereal.v:936]: I am a bit concerned by the fact that this is the same proof as `ereal_sup_ninfty`
and that is not more "compositional", i.e., something like that:
```
Lemma oppE_subset (R : realType) (A B : set (er R)) :
  (A `<=` B) <-> (-%E @` A `<=` -%E @` B).
Proof.
split=> [AB _ [] x ? <-|AB x Ax]; first by exists x => //; exact/AB.
have /AB[y By /eqP] : (-%E @` A) (- x)%E by exists x.
by rewrite eqe_opp => /eqP <-.
Qed.

Lemma eqe_oppLRP (R : numDomainType) (x y : er R) : ((- x)%E = y) <-> (x = (- y)%E).
Proof.
split; first by move/eqP; rewrite eqe_oppLR => /eqP.
by move=> ?; apply/eqP; rewrite eqe_oppLR; apply/eqP.
Qed.

Lemma ereal_inf_pinfty (R : realType) (S : set {ereal R}) : ereal_inf S = +oo%E -> S `<=` [set +oo%E].
Proof.
by rewrite eqe_oppLRP oppE_subset image_set1; apply ereal_sup_ninfty.
Qed.
```
(or we can use `eqe_oppLR` but then we do not have a one-linear anymore).

Aren't we lacking at least `oppe_subset`?

File: theories/ereal.v [hunk 3]
```diff
@@ -388,6 +395,10 @@ Proof. by case: x => //=; rewrite oppr0. Qed.
 Lemma addERFin (r r' : R) : (r + r')%R%:E = r%:E + r'%:E.
 Proof. by []. Qed.
 
+Lemma sumERFin I r P (F : I -> R) :
```
Comment (affeldt-aist) [inline theories/ereal.v:398]: I wonder whether we really want to add such a direct instance of `big_morph`.
(As a user, knowing that `big_morph` exists, I maybe wouldn't even search
for an instance. On the other hand, one still has to search for `addERFin`...)

**Review by affeldt-aist — COMMENTED** [review]
Maybe this needs another look by somebody else. @CohenCyril ?

File: theories/classical_sets.v (hunk 1 above)
Comment (proux01) [reply theories/classical_sets.v:294]: Thanks, applied.

File: theories/ereal.v (hunk 2 above)
Comment (proux01) [reply theories/ereal.v:936]: Indeed. While adding `eqe_oppLRP` I also added `eqe_oppP`.

File: theories/ereal.v (hunk 3 above)
Comment (proux01) [reply theories/ereal.v:398]: No strong opinion. I find it convenient but we could indeed as well live without it.
I'll drop this commit if there is no further comment.

**Comment by CohenCyril** [comment]
It looks mostly good, I will take a closer look by wednesday...

File: theories/ereal.v [hunk 4]
```diff
@@ -816,6 +844,9 @@ rewrite /ereal_sup /supremum; case: pselect => /= [_|x0]; last first.
 by rewrite supremums_set1; case: xgetP => // /(_ x) /(_ erefl).
 Qed.
 
+Lemma ereal_inf_set1 x : ereal_inf [set x] = x.
```
Comment (affeldt-aist) [inline theories/ereal.v:847]: Could you rename it to `ereal_inf1`?
Don't worry about other such renamings, some of them will be taken care of by PR #359 or/and forthcoming issue/PS. (Thanks for revealing the naming issue anyway!)

Comment (proux01) [reply theories/ereal.v]: Done, I'll rebase if #359 is merged first.

File: theories/classical_sets.v [hunk 5]
```diff
@@ -288,6 +288,12 @@ Lemma eq_set T (P Q : T -> Prop) : (forall x : T, P x = Q x) ->
   [set x | P x] = [set x | Q x].
 Proof. by move=> /funext->. Qed.
 
+Lemma eq_set_inl T1 T2 (A : set T1) (f f' : T1 -> T2) :
```
Comment (CohenCyril) [inline theories/classical_sets.v:291]:
```suggestion
Lemma eq_imagel T1 T2 (A : set T1) (f f' : T1 -> T2) :
```

File: theories/classical_sets.v [hunk 6]
```diff
@@ -695,6 +701,10 @@ by rewrite eqEsubset; split => [x [b [a Aa] <- <-]|x [a Aa] <-];
   [apply/imageP |apply/imageP/imageP].
 Qed.
 
+Lemma set_in_in T1 T2 T3 A (f : T1 -> T2) (f' : T2 -> T3) :
```
Comment (CohenCyril) [inline theories/classical_sets.v:704]: This is `image_comp` why redefining it?

File: theories/ereal.v (hunk 3 above)
Comment (CohenCyril) [reply theories/ereal.v:398]: Please keep it.

**Comment by CohenCyril** [comment]
I think this can be merged modulo answering my comments and rebasing.

File: theories/classical_sets.v (hunk 6 above)
Comment (proux01) [reply theories/classical_sets.v:704]: To be able to use it in rewrite (`rewrite image_comp` doesn't work in this case unless you make `image` explicitly appears which can be painful).

Comment (CohenCyril) [reply theories/classical_sets.v:704]: So let's keep it for now, and let's open an issue to try and fix it later.

File: theories/classical_sets.v (hunk 5 above)
Comment (proux01) [reply theories/classical_sets.v:291]: To be done later (see discussion just below).

**Comment by proux01** [comment]
Rebased, CI green
